US07687490B2
Allyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate (970 mg) was dissolved in 10 ml of N,N-dimethylacetamide. 4-Dimethylaminopyridine (281 mg), 441 mg of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride, and 681 mg of N-4-nitrobenzyloxycarbonyl-L-valine were added to the solution, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 50 ml of 20% brine and 50 ml of ethyl acetate, followed by separation. The organic layer was dried over magnesium sulfate. The magnesium sulfate was removed by filtration, and the solvent was removed by distillation under the reduced pressure. The crude product was purified by column chromatography on silica gel (ethyl acetate:n-hexane=2:1, and subsequently ethyl acetate:n-hexane=5:1) to give 517 mg of allyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[[(Z)-2-(4-(N-4-nitrobenzyloxycarbonyl-L-valyloxymethyl)thiazol-5-yl)ethen-1-yl]thio]-1-carbapen-2-em-3-carboxylate.

reactant | Allyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[[(Z)-2-(4-hydroxymethylthiazol-5-yl)ethen-1-yl]thio]-1-methyl-1-carbapen-2-em-3-carboxylate | 970 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)CO)C(=O)OCC=C)C1=O | C19H22N2O5S2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 441 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-4-nitrobenzyloxycarbonyl-L-valine | 681 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N[C@@H](C(C)C)C(=O)O)C=C1 | C13H16N2O6
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
catalyst | 4-Dimethylaminopyridine | 281 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | brine | 50 ml | [Cl-].[Na+].O
product | allyl (1R,5S,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[[(Z)-2-(4-(N-4-nitrobenzyloxycarbonyl-L-valyloxymethyl)thiazol-5-yl)ethen-1-yl]thio]-1-carbapen-2-em-3-carboxylate | 517 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S\C=C/C2=C(N=CS2)COC([C@@H](NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(C)C)=O)C(=O)OCC=C)C1=O | C32H36N4O10S2
